US05112971
Example 3 was repeated, provided that the compounds shown in 1st, 2nd and 3rd columns of the following table were used in place of the 1-amino-2-(3'-amino-4'-sulfophenoxy)-4-(4'-sulfophenylthio)anthraquinone, 1-aminobenzene-4-β-sulfatoethylsulfone and 3-aminobenzenesulfonic acid respectively, thereby obtaining a corresponding anthraquinone. The color shade obtained by dyeing cotton with the anthraquinone compound is as shown in a 4th column of the table. Each compound can exhibit superior dye performances as described hereinabove.

reactant | 1-amino-2-(3'-amino-4'-sulfophenoxy)-4-(4'-sulfophenylthio)anthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)SC1=CC=C(C=C1)S(=O)(=O)O)OC1=CC(=C(C=C1)S(=O)(=O)O)N | C26H18N2O9S3
reactant | 3-aminobenzenesulfonic acid | NC=1C=C(C=CC1)S(=O)(=O)O | C6H7NO3S
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
